.subckt nand2 in1 in2 out Vdd 
.param NandP=4
.param NandN=2
.PARAM Lmin=22n
.PARAM Wmin=22n
.PARAM Ldiff=44n

M1 out in1 x 0 nmos W={Wmin*NandN} L={Lmin}
M2 x in2 0 0 nmos W={Wmin*NandN} L={Lmin}
M3 out in1 Vdd Vdd pmos W={Wmin*NandP} L={Lmin}  
M4 out in2 Vdd Vdd pmos W={Wmin*NandP} L={Lmin} 
.ends 
